US06498169B1
Synthesis of Ethyl 2-(4-Chloro-3,5-dimethoxyphenyl)isonicotinate
4-Chloro-3,5-dimethoxyphenylboronic acid (7.45 g) and ethyl 2-chloroisonicotinate (6.39 g) were condensedn in the same manner as described in Preparation Example 1 to give the title compound.

reactant | 4-Chloro-3,5-dimethoxyphenylboronic acid | 7.45 g | ClC1=C(C=C(C=C1OC)B(O)O)OC | C8H10BClO4
reactant | ethyl 2-chloroisonicotinate | 6.39 g | ClC=1C=C(C(=O)OCC)C=CN1 | C8H8ClNO2
product | Ethyl 2-(4-Chloro-3,5-dimethoxyphenyl)isonicotinate | ClC1=C(C=C(C=C1OC)C=1C=C(C(=O)OCC)C=CN1)OC | C16H16ClNO4
